US04563446
(E)-7-Phenyl-7-(3-pyridyl)-6-hepten-1-ol (2.0 g, 7.4 mmoles) was dissolved in methylene chloride (20 ml), and p-toluenesulfonyl isocyanate (1.5 g, 7.6 mmoles) was added to the solution. The mixture was stirred at room temperature for an hour and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography using isopropyl ether-ethyl acetate (1:1) as the developing solvent. Recrystallization of the product from ethyl acetate gave 1-(p-toluenesulfonyl)aminocarbonyloxy-(E)-7-phenyl-7-(3-pyridyl)-6-heptene (2.1 g, 60%) (Compound Id-29).

reactant | (E)-7-Phenyl-7-(3-pyridyl)-6-hepten-1-ol | 7.4 mmoles, 2.0 g | C1(=CC=CC=C1)\C(=C/CCCCCO)\C=1C=NC=CC1 | C18H21NO
reactant | p-toluenesulfonyl isocyanate | 7.6 mmoles, 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)N=C=O)C | C8H7NO3S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(p-toluenesulfonyl)aminocarbonyloxy-(E)-7-phenyl-7-(3-pyridyl)-6-heptene | 2.1 g, 60% | C1(=CC=C(C=C1)S(=O)(=O)NC(=O)OCCCCC\C=C(\C=1C=NC=CC1)/C1=CC=CC=C1)C | C26H28N2O4S
